US04886733
To 300 ml of methane-sulfonic acid contained in a 1 liter, 3-neck flask equipped with thermometer, drying tube and magnetic stirring bar was added 82.0 g (0.38 mole) of γ-(2-naphthyl)butyric acid as prepared above and the reaction mixture was heated at 90°-95° C. for one hour with vigorous stirring. The yellow reaction mixture was cooled, poured on crushed ice and extracted with two 350 ml portions of ethyl acetate. The combined organic portions were washed with 5% aqueous sodium hydroxide, water, dried over anhydrous sodium sulfate and then treated with some silica gel powder and Norit A charcoal before filtering. Upon removing the solvent an off-white solid was obtained. Recrystallization from 375 ml of hexane containing 7-10 ml of chloroform gave an oil that solidified to yield 55.0 g (73.3% by weight) of 1,2,3,4-tetrahydro-4-phenanthrone as an off-white solid. M.P. 64°-66° C.; λmax 312 nm (7,510) ethanol; T.L.C. CH2Cl2. R f =.7.

reactant | γ-(2-naphthyl)butyric acid | 0.38 mole, 82.0 g | C1=C(C=CC2=CC=CC=C12)CCCC(=O)O | C14H14O2
solvent | methane-sulfonic acid | 300 ml | CS(=O)(=O)O | CH4O3S
product | 1,2,3,4-tetrahydro-4-phenanthrone | 55.0 g | C1CCC(C=2C3=CC=CC=C3C=CC12)=O | C14H12O
